US06846492B2
b) 1-Nitro-2-(4-dodecyloxy-3-methoxyphenyl)ethene
4-Dodecyloxy-3-methoxybenzaldehyde (166 g; 0.519 mol) is heated for 2 hours at 100° C. with ammonium acetate (20 g; 0.388 mol) and nitromethane (49 ml; 0.914 mol). The resulting melt is then added dropwise with vigorous stirring to methanol, yellow crystals precipitating. After filtration, the residue is washed several times with methanol and then dried.

reactant | 4-Dodecyloxy-3-methoxybenzaldehyde | 0.519 mol, 166 g | C(CCCCCCCCCCC)OC1=C(C=C(C=O)C=C1)OC | C20H32O3
reactant | ammonium acetate | 0.388 mol, 20 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 0.914 mol, 49 ml | [N+](=O)([O-])C | CH3NO2
solvent | methanol | CO | CH4O
product | 1-Nitro-2-(4-dodecyloxy-3-methoxyphenyl)ethene | [N+](=O)([O-])C=CC1=CC(=C(C=C1)OCCCCCCCCCCCC)OC | C21H33NO4
